US05929103
Synthesis of (S)-(+)-4-phenyl-1-(indoline-5-sulfonyl)-4,5-dihydro-2-imidazolone
Sodium hydride (60% oily, 475 mg, 11.88 mmol) was suspended in 15 m of dimethylformamide and cooled down to 0° C. To the suspension was added N-trifluoroacetyl-indoline-5-sulfonamide (0.832 g, 2.97 mmol) prepared in Preparation 7 in several portions, and then the mixture was stirred at 0° C. for 10 min. Then, (S)-2-N-phenoxycarbonylamino-2-phenylethylmethane-sulfonate (1.0 g, 2.97 mmol) prepared in Preparation 6 was added thereto. The reaction mixture was stirred at 0° C. for 3 hours and further stirred at room temperature for 1 hour. After confirming the completion of reaction by TLC, the reaction mixture was poured into 30 m of ice. The resulting precipitate was collected and dried to afford 0.72 g of the title compound.

reactant | Sodium hydride | 11.88 mmol, 475 mg | [H-].[Na+]
reactant | N-trifluoroacetyl-indoline-5-sulfonamide | 2.97 mmol, 0.832 g | FC(C(=O)NS(=O)(=O)C=1C=C2CCNC2=CC1)(F)F | C10H9F3N2O3S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | (S)-(+)-4-phenyl-1-(indoline-5-sulfonyl)-4,5-dihydro-2-imidazolone | 0.72 g, Yield: 68% | C1(=CC=CC=C1)[C@@H]1NC(N(C1)S(=O)(=O)C=1C=C2CCNC2=CC1)=O | C17H17N3O3S
